US07612211B2
B. 2′-methanesulfonyl-biphenyl-3,4-diamine
A solution of (3-tert-butoxycarbonylamino-2′-methanesulfonyl-biphenyl-4-yl)-carbamic acid tert-butyl ester (12.47 g, 0.0270 mol) in 4M HCl in dioxane (120 mL) was stirred at room temperature for 2 h. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in EtOAc, and the solution was washed with saturated sodium bicarbonate and water (pH=7). The organic layer was dried over Na2SO4, filtered, and the filtrate was concentrated in vacuo to provide the title compound as a yellow oil (6.93 g, 98%).

reactant | (3-tert-butoxycarbonylamino-2′-methanesulfonyl-biphenyl-4-yl)-carbamic acid tert-butyl ester | 0.0270 mol, 12.47 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)NC(=O)OC(C)(C)C)=O | C23H30N2O6S
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 120 mL | O1CCOCC1 | C4H8O2
product | 2′-methanesulfonyl-biphenyl-3,4-diamine | 6.93 g, 98% | CS(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)N)N | C13H14N2O2S
